US07968570B2
A mixture of 2-bromomethyl-6-iodo-benzoic acid methyl ester (0.107 g, 0.3 mmol), 3-phenyl-propylamine (0.071 mL, 0.5 mmol), and K2CO3 (0.138 g, 1 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-iodo-2-(3-phenyl-propyl)-2,3-dihydro-isoindol-1-one (0.054 g, 48%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.01 (m, 2H), 2.72 (t, 2H), 3.66 (t, 2H), 4.25 (s, 2H), 7.14-7.42 (m, 7H), 7.90 (d, 1H).

reactant | 2-bromomethyl-6-iodo-benzoic acid methyl ester | 0.3 mmol, 0.107 g | COC(C1=C(C=CC=C1I)CBr)=O | C9H8BrIO2
reactant | 3-phenyl-propylamine | 0.5 mmol, 0.071 mL | C1(=CC=CC=C1)CCCN | C9H13N
reactant | K2CO3 | 1 mmol, 0.138 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 7-iodo-2-(3-phenyl-propyl)-2,3-dihydro-isoindol-1-one | 0.054 g, 48% | IC=1C=CC=C2CN(C(C12)=O)CCCC1=CC=CC=C1 | C17H16INO
